US04340765
(E)-4(3-Hydroxyphenoxy)-2-methyl-2-buten-1-al
A solution of 10.32 g resorcinol monoacetate in 40 ml sieve dried dimethyl formamide is stirred at ambient temperature under nitrogen as 18.7 g of solid potassium carbonate is added. After 5 minutes, a solution of 16.08 g (E)-4-bromo-1,1-diethoxy-2-methyl-2-butene in 40 ml sieve dried dimethyl formamide is added in dropwise fashion over a 30 minute period. During this addition, the solution becomes dark brown. After the addition is completed, the reaction mixture is stirred for 21/2 hours at room temperature and is then poured into 700 ml 10% potassium carbonate at 0° C. The mixture is extracted with two 200 ml portions of diethylether and the extracts are combined and washed with four 200 ml portions of distilled water. Anhydrous magnesium sulfate and activated charcoal are added to the solution and it is allowed to stand for 30 minutes and is then filtered. The golden filtrate is evaporated to dryness to yield 11.36 g of dark yellow brown oil which is (E)-4(3-acetoxyphenoxy)-1,1-diethoxy-2-methyl-2-butene which is dissolved in 150 ml methanol and stirred under nitrogen as 50 ml 5% aqueous sodium hydroxide solution is added and stirred for about two hours. The reaction mixture is placed in a rotary evaporator and the methanol removed. The remaining mixture is diluted to 200 ml and extracted with 200 ml diethylether. The ether solution is evaporated to dryness. The solution is dried over magnesium sulfate and treated with activated charcoal and filtered to yield a bright yellow solution. The solution is evaporated and yields 3.41 g of yellow oily residue which is taken up in 30 ml of a 1:5 water-acetone mixture and stirred under nitrogen as 0.5 g p-tolunesulfonic acid monohydrate is added. After about 30 minutes, the solution is evaporated to dryness and 25 ml water and 25 ml ethyl acetate are added and the residue separated. The ethyl acetate phase is dried over magnesium sulfate, treated with activated charcoal and filtered and the filtrate evaporated to dryness to yield 2.5 g yellow, oily solid residue. The residue is extracted in 50 ml diethylether and the diethylether solution concentrated to yield a yellow solid which is purified by recrystallization from a methanol-water mixture to yield about 1.0 g light yellow solid product, m.p. 136°-38° C. Elemental Analysis. Calculated: C,68.74; H,6.29. Found: C,68.75; H,6.36.

reactant | (E)-4(3-acetoxyphenoxy)-1,1-diethoxy-2-methyl-2-butene | C(C)(=O)OC=1C=C(OC/C=C(/C(OCC)OCC)\C)C=CC1 | C17H24O5
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | (E)-4(3-Hydroxyphenoxy)-2-methyl-2-buten-1-al | 3.41 g | OC=1C=C(OC/C=C(/C=O)\C)C=CC1 | C11H12O3
